US06855710B2
a) 4-(2-methylamino-ethyl)-nitrobenzene
2.7 g (86 mmol) of methylamine are dissolved in 120 ml of dichloromethane while cooling with ice. 4.9 g (21 mmol) of 4-(2-bromoethyl)-nitrobenzene are added and the mixture is allowed to come up slowly to ambient temperature. After 15 hours stirring the solvent is eliminated in vacuo and the residue taken up in water. An acid pH is created using 2 N hydrochloric acid and the mixture is washed with dichloromethane. The aqueous phase is then adjusted to a basic pH using 4 N sodium hydroxide solution and the product is extracted with dichloromethane.

reactant | methylamine | 86 mmol, 2.7 g | CN | CH5N
reactant | 4-(2-bromoethyl)-nitrobenzene | 21 mmol, 4.9 g | BrCCC1=CC=C(C=C1)[N+](=O)[O-] | C8H8BrNO2
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-(2-methylamino-ethyl)-nitrobenzene | CNCCC1=CC=C(C=C1)[N+](=O)[O-] | C9H12N2O2
